US07501518B2
Using General Procedure A: A solution of 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (0.602 g, 2.25 mmol), α-bromo-o-tolunitrile (0.668 g, 3.41 mmol), KI (100 mg, 0.60 mmol), and DIPEA (0.80 mL, 4.59 mmol) in DMF (11 mL) was heated at 60° C. for 23 hours. Purification of the crude material by column chromatography on silica gel (40:1:1 CH2Cl2—CH3OH—NH4OH) provided 0.78 g (91%) of 2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzonitrile as a tan solid. 1H NMR (CDCl3) δ 1.63-1.73 (m, 3H), 2.02-2.07 (m, 1H), 2.26-2.38 (m, 2H), 2.48 (s, 6H), 3.69 (s, 2H), 4.12 (d, 2H, J=10.8 Hz), 6.83-6.89 (m, 3H), 6.99 (d, 1H, J=7.2 Hz), 7.19-7.26 (m, 3H), 7.64 (d, 1H, J=7.8 Hz), 8.27 (d, 2H, J=3.9 Hz). 13C NMR (CDCl3) δ 19.44, 25.53, 29.42, 52.72, 67.05, 109.86, 118.06, 122.19, 125.90, 130.68, 131.41, 131.54, 132.02, 138.18, 145.77, 147.23, 159.61; ES-MS m/z 383 (M+H). Anal. Calcd. For C25H26N4C, 78.50; H, 6.852; N, 14.65. Found: C, 78.28; H, 6.93; N, 14.57.

reactant | 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 2.25 mmol, 0.602 g | CC=1C(=NC=CC1)C1NC(CCC1)C1=NC=CC=C1C | C17H21N3
reactant | α-bromo-o-tolunitrile | 3.41 mmol, 0.668 g | BrCC=1C(=CC=CC1)C#N | C8H6BrN
reactant | DIPEA | 4.59 mmol, 0.80 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | 2-(3,3″-dimethyl-3′,4′,5′,6′-tetrahydro-2′H-[2,2′;6′,2″]terpyridin-1′-ylmethyl)-benzonitrile | 0.78 g, 91% | CC=1C(=NC=CC1)C1N(C(CCC1)C1=NC=CC=C1C)CC1=C(C#N)C=CC=C1 | C25H26N4
